US06951870B2
(a) 7-Hydroxy-6-methoxy-2-oxo-2H-chromene-3-carboxylic acid ethyl ester
A mixture of 2,4-dihydroxy-5-methoxybenzaldehyde (1.68 g) and diethyl malonate (1.76 g) in DMF (5 ml) was treated with a few drops of piperidine and acetic acid and kept at 80-95° C. overnight. The reaction mixture was poured into ice water, acidified and filtered. Yield: 2.2. g.

reactant | 2,4-dihydroxy-5-methoxybenzaldehyde | 1.68 g | OC1=C(C=O)C=C(C(=C1)O)OC | C8H8O4
reactant | diethyl malonate | 1.76 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
catalyst | piperidine | a few drops | N1CCCCC1 | C5H11N
product | 7-Hydroxy-6-methoxy-2-oxo-2H-chromene-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(OC2=CC(=C(C=C2C1)OC)O)=O | C13H12O6
